US08865712B2
c) 3-Amino-5-cyano-pyridine-2-carboxylic acid tert-butyl ester
To a mixture of 5-cyano-3-nitro-pyridine-2-carboxylic acid tert-butyl ester (130 mg, 0.522 mmol) in water (3 ml) was added acetic acid (0.149 ml, 2.61 mmol), the mixture was stirred at room temperature for 20 min, sodium dithionite (454 mg, 2.61 mmol) was added and stirring was continued for 23 h. Additional sodium dithionite (182 mg, 1.043 mmol) was added and the reaction mixture stirred for another 48 h. The mixture was extracted with DCM, the combined organic layers were washed with water and saturated aq. NaCl, dried with Na2SO4 and evaporated to provide the title compound as yellow solid. The product was used for the next step without further purification.

reactant | 5-cyano-3-nitro-pyridine-2-carboxylic acid tert-butyl ester | 0.522 mmol, 130 mg | C(C)(C)(C)OC(=O)C1=NC=C(C=C1[N+](=O)[O-])C#N | C11H11N3O4
reactant | acetic acid | 2.61 mmol, 0.149 ml | C(C)(=O)O | C2H4O2
reactant | sodium dithionite | 2.61 mmol, 454 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium dithionite | 1.043 mmol, 182 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 3 ml | O | H2O
product | 3-Amino-5-cyano-pyridine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=NC=C(C=C1N)C#N | C11H13N3O2
